US07528146B2
250 g (1.64 mol) of 4-chloro-1H-pyrrolo[2,3-b]pyridine were initially charged together with 328 g (5.85 mol) of pulverulent KOH in 3000 ml of DMF and cooled to 0° C. A solution of 416 g (1.64 mol) of iodine in 3000 ml of DMF was added dropwise with cooling to this suspension and, on completion of addition, the suspension was stirred at 0° C. for a further 4 h. On completion of the reaction, the mixture was added to ice-water with stirring, and the solid formed was filtered off with suction and subsequently dried under high vacuum. A total of 403 g (1.45 mol, 88%) of 4-chloro-3-iodo-1H-pyrrolo[2,3-b]pyridine were isolated as a colourless solid.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 1.64 mol, 250 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | KOH | 5.85 mol, 328 g | [OH-].[K+]
reactant | iodine | 1.64 mol, 416 g | II | I2
solvent | DMF | 3000 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3000 ml | CN(C)C=O | C3H7NO
product | 4-chloro-3-iodo-1H-pyrrolo[2,3-b]pyridine | 1.45 mol, 403 g, 88% | ClC1=C2C(=NC=C1)NC=C2I | C7H4ClIN2
